US06331538B1
1-Cyclopropyl-6-fluoro-3-hydroxy-7-(pyrrolidin-1-yl)-1H-quinazoline-2,4-dione
A solution of 3-benzyloxy-1-cyclopropyl-6-fluoro-7-pyrrolidin-1-yl-1H-quinazoline-2,4-dione (Example F-3, 0.15 g, 0.38 mmol) in trifluoroacetic acid (TFA, 3.0 mL) was reacted with a 1.0 M solution of boron tris(trifluoroacetate) (1.5 mL, 1.5 mmol, Angew. Chem, Internal. Ed., 1973;12:147) in TFA and allowed to stir for 2 hours. The mixture was then concentrated and the residue diluted in methanol and concentrated. This process was repeated two times. The residue was then triturated from diethyl ether/hexanes and filtered to provide 0.073 g of the title compound as solid, mp 248-250° C. (dec.).

reactant | 3-benzyloxy-1-cyclopropyl-6-fluoro-7-pyrrolidin-1-yl-1H-quinazoline-2,4-dione | 0.38 mmol, 0.15 g | C(C1=CC=CC=C1)ON1C(N(C2=CC(=C(C=C2C1=O)F)N1CCCC1)C1CC1)=O | C22H22FN3O3
reactant | boron tris(trifluoroacetate) | 1.5 mmol, 1.5 mL | FC(C(=O)[O-])(F)F.FC(C(=O)[O-])(F)F.FC(C(=O)[O-])(F)F.[B+3]
solvent | trifluoroacetic acid | 3.0 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 1-Cyclopropyl-6-fluoro-3-hydroxy-7-(pyrrolidin-1-yl)-1H-quinazoline-2,4-dione | 0.073 g | C1(CC1)N1C(N(C(C2=CC(=C(C=C12)N1CCCC1)F)=O)O)=O | C15H16FN3O3
